* source LTC_FILTER_TEST
C_C2         OUT N00496  1n  
V_V1         IN 0 DC 0Vdc AC 3.3Vac 
X_U1         N00511 OUT N00205 N00199 OUT uA741
R_R1         N00496 N00511  10k  
R_R2         IN N00496  10k  
V_V2         N00205 0 5Vdc
R_R3         0 N00496  4.7k  
V_V3         0 N00199 5Vdc
C_C1         0 N00511  2.2n  
