* source GAIN-TEST
X_U2         N00152 VIN N00298 0 VOUT uA741
R_R1         N00152 VOUT  500  
V_V2         VIN 0 2.5Vdc
V_V1         N00298 0 3.3Vdc
R_R2         0 VIN  1k  
