* Schematics Netlist *



V_V2         $N_0001 0 5V
V_V3         0 $N_0002 5V
V_V4         in 0 DC 0V AC 300mV 0
R_R1         $N_0003 out  22k  
R_R2         $N_0004 $N_0003  22k  
X_U1A         in $N_0003 $N_0001 $N_0002 out LM324
R_R3         0 $N_0004  1  
C_C3         $N_0003 out  8.2p  
C_C4         0 in  1.5p  
C_C5         0 $N_0003  1.5p  
